US05229379
13.34 g of benzylphosphinic acid are dissolved in 150 ml of dichloromethane, the solution is cooled to 5°, and 8.64 g of triethylamine are added dropwise. An exothermic reaction takes place. The mixture is cooled to 5° again, and 9.3 g of chloroformic acid ethyl ester are added dropwise within a period of 30 minutes. A precipitate forms in an exothermic reaction with the evolution of gas. The mixture is allowed to warm to room temperature and is then stirred at room temperature for 3 hours, taken up in dichloromethane and washed with water, and the organic solvent is removed. The crude product is distilled under a high vacuum, yielding benzylphosphinic acid ethyl ester having a boiling point of 96°-100° (5×10-6 bar).

reactant | benzylphosphinic acid | 13.34 g | C(C1=CC=CC=C1)P(O)=O | C7H9O2P
reactant | triethylamine | 8.64 g | C(C)N(CC)CC | C6H15N
reactant | chloroformic acid ethyl ester | 9.3 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | benzylphosphinic acid ethyl ester | C(C)OP(=O)CC1=CC=CC=C1 | C9H13O2P
